US05183587
Trimethylsilyl chloride (305.6 g, 2.81 mol) was dropwise added to trans-4-methoxymethyl-1-(4-cyanophenyl)cyclohexane (322.5 g, 1.41 mol), sodium iodide (421.6 g, 2.81 mol) and acetonitrile (2.5 l), with stirring in nitrogen atmosphere at 35° C. over 30 minutes, followed by agitating the mixture for 20 minutes, cooling it down to 10° C., filtering the reaction mixture by suction, pouring the mother liquor in ice water (2 Kg), extracting with chloroform (1.5 l), twice washing the chloroform solution with a 10% by weight aqueous solution of sodium thiosulfate (0.5 l), further three times washing with water (1 l), distilling off chloroform, and three times recrystallizing the residue from toluene (300 ml) for purification to obtain trans-4-(4-cyanophenyl)cyclohexylcarbinol (182.5 g, 0.848 mol). M.P.: 108.5-110.8° C. A solution of this trans-4-(4-cyanophenyl)cyclohexylcarbinol (107.6 g, 0.500 mol) in dichloromethane (0.7 l) was instantaneously added to a solution of pyridinium chlorochromate (161.7 g, 0.750 mol) in dichloromethane (1 l), prepared in advance, with stirring, at room temperature, followed by agitating the mixture at room temperature for 1.5 hour, adding diethyl ether (1 l) to the resulting reaction solution, and subjecting the supernatant to column chromatography using Florisil® (made by Floridin Co., Ltd.) as a filler to obtain trans-4-(4-cyanophenyl)cyclohexylcarbaldehyde (101.2 g, 0.474 mol).

reactant | Trimethylsilyl chloride | 2.81 mol, 305.6 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | trans-4-methoxymethyl-1-(4-cyanophenyl)cyclohexane | 1.41 mol, 322.5 g | COC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C#N | C15H19NO
reactant | sodium iodide | 2.81 mol, 421.6 g | [I-].[Na+]
solvent | acetonitrile | 2.5 l | C(C)#N | C2H3N
product | trans-4-(4-cyanophenyl)cyclohexylcarbinol | 0.848 mol, 182.5 g | C(#N)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CO | C14H17NO
